US04829071
5-Methanesulphonamido-2-methylaminoindane
2-[N-(4-Methanesulphonamidobenzyl)-N-methylamino]-5-methanesulphonamidoindane (0.175 g) in ethanol (20 ml) containing 5% Pd/C (0.02 g) was stirred under a hydrogen atmosphere [275.8 kPa (40 p.s.i.)] for 31/2 hours at 40°. The catalyst was then removed by filtration and the filtrate evaporated to dryness in vacuo to give the title compound as an oil, yield 0.09 g, which was used directly without further purification.

reactant | 2-[N-(4-Methanesulphonamidobenzyl)-N-methylamino]-5-methanesulphonamidoindane | 0.175 g | CS(=O)(=O)NC1=CC=C(CN(C)C2CC3=CC=C(C=C3C2)NS(=O)(=O)C)C=C1 | C19H25N3O4S2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 5-Methanesulphonamido-2-methylaminoindane | CS(=O)(=O)NC=1C=C2CC(CC2=CC1)NC | C11H16N2O2S
